US07271153B2
To a solution of 2-(β-D-glucopyranosyloxy)-3-(4-methoxy-benzyl)-4,6-dimethylpyridine (0.32 g) in 2,4,6-trimethyl-pyridine (3.8 mL) was added a solution of methyl chloroformate (0.18 mL) in dichloromethane (0.4 mL) at −40° C. The temperature was raised to room temperature, and the mixture was stirred for 7 hours. To the reaction mixture was added 10% aqueous citric acid solution (12 mL), and the mixture was extracted with ethyl acetate. After the organic layer was washed with 10% aqueous citric acid solution and dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate) to give 3-(4-methoxybenzyl)-2-(6-O-methoxy-carbonyl-β-D-glucopyranosyloxy)-4,6-dimethylpyridine (0.27 g).

reactant | 2-(β-D-glucopyranosyloxy)-3-(4-methoxy-benzyl)-4,6-dimethylpyridine | 0.32 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NC(=CC(=C1CC1=CC=C(C=C1)OC)C)C | C21H27NO7
reactant | methyl chloroformate | 0.18 mL | ClC(=O)OC | C2H3ClO2
reactant | citric acid | 12 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 2,4,6-trimethyl-pyridine | 3.8 mL | CC1=NC(=CC(=C1)C)C | C8H11N
solvent | dichloromethane | 0.4 mL | ClCCl | CH2Cl2
product | 3-(4-methoxybenzyl)-2-(6-O-methoxy-carbonyl-β-D-glucopyranosyloxy)-4,6-dimethylpyridine | 0.27 g | COC1=CC=C(CC=2C(=NC(=CC2C)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)C(OOC)=C=O)C=C1 | C23H27NO9
